US08058447B2
1-(2-Hydroxy-3-methylphenyl)-2-(triphenylphosphoranylidene)ethanone
206.8 ml (330.9 mmol) of a 1.6 molar n-butyllithium solution in n-hexane are slowly added to 97.3 g (240.7 mmol) of methyltriphenylphosphonium iodide in 800 ml of absolute THF under argon. The mixture is stirred at room temperature for 3 h. Subsequently, 20.0 g (120.3 mmol) of methyl 2-hydroxy-3-methylbenzoate in 200 ml of absolute THF are added dropwise to the reaction mixture. The mixture is stirred at 60° C. for 3 h. After cooling to room temperature, the precipitated lithium iodide is filtered off. The filtrate is concentrated in vacuo, and the residue is recrystallized from methanol. 27 g (56% of theory) of the title compound are obtained.

reactant | n-butyllithium | 1.6 molar | C(CCC)[Li]
reactant | methyltriphenylphosphonium iodide | 240.7 mmol, 97.3 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 2-hydroxy-3-methylbenzoate | 120.3 mmol, 20.0 g | OC1=C(C(=O)OC)C=CC=C1C | C9H10O3
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(2-Hydroxy-3-methylphenyl)-2-(triphenylphosphoranylidene)ethanone | OC1=C(C=CC=C1C)C(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H23O2P
